US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and phenoxyacetyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-phenoxyacetamide as an off white powder, m.p. 61.5° C. (decomposition). 1H NMR (300 MHz, DMSO-d6) δ8.19 (s, 1H), 8.12 (t, J=6.0 Hz, 1H), 8.03 (d, J=8.4 Hz, 1H), 7.62 (dd, J=8.4, 1.2 Hz, 1H), 7.44 (dt, J=7.5, 1.2 Hz, 1H), 7.29-7.21 (m, 3H), 6.96-6.88 (m, 3H), 6.62 (s, 2H), 4.60 (t, J=7.2 Hz, 2H), 4.42 (s, 2H), 3.16 (q, J=6.9 Hz, 2H), 1.83 (quintet, J=7.2 Hz, 2H), 1.47 (quintet, J=7.2 Hz, 2H); IR (KBr) 3311, 3180, 2937, 1664, 1618, 1583, 1527, 1493, 1480, 1396, 1244, 755 cm−1; MS (EI) m/e 389.1844 (389.1852 calcd for C22H23N5O2).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-phenoxyacetamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(COC2=CC=CC=C2)=O | C22H23N5O2
